US04954498
8,8-Dimethyl-2-(4-diethylamino-2-propyloxyphenyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6one
2 g. 8,8-Dimethyl-2-(4-diethylamino-2-allyloxy-phenyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6-one were hydrogenated in ethanol in the presence of palladium/charcoal. After completion of the take up of hydrogen, the catalyst was filtered off, the filtration was evaporated and the residue recrystallised from isopropanol to give 1.8 g. of the title compound; m.p. 147 -148° C.

reactant | 8,8-Dimethyl-2-(4-diethylamino-2-allyloxy-phenyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6-one | CC1(CC(NC=2C=C3C(=CC12)NC(=N3)C3=C(C=C(C=C3)N(CC)CC)OCC=C)=O)C | C25H30N4O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium/charcoal | [Pd] | Pd
product | 8,8-Dimethyl-2-(4-diethylamino-2-propyloxyphenyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6one | CC1(CC(NC=2C=C3C(=CC12)NC(=N3)C3=C(C=C(C=C3)N(CC)CC)OCCC)=O)C | C25H32N4O2
